US07501516B2
4-(6-bromo-2,3-methylenedioxyphenoxy)-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline
Using an analogous procedure to that described in Example 14, 4chloro-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline was reacted with 6-bromo-2,3-methylenedioxyphenol to give the title compound as a solid in 52% yield; NMR Spectrum: (DMSOd6 and CF3CO2D) 2.25-2.4 (m, 2H), 2.95 (s, 3H), 3.24-4.0 (m, 8H), 3.48 (m, 2H), 3.98 (s, 3H), 4.35 (m, 2H) 6.02 (s, 1H), 6.08 (s, 1H), 6.92 (d, 1H), 7.25 (d, 1H), 7.6 (d, 2H), 8.9 (s, 1H); Mass Spectrum: M+H+ 555 and 557.

reactant | 4chloro-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline | ClC1=C(C=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C)C#N | C19H23ClN4O2
reactant | 6-bromo-2,3-methylenedioxyphenol | BrC1=CC=C2C(=C1O)OCO2 | C7H5BrO3
product | 4-(6-bromo-2,3-methylenedioxyphenoxy)-3-cyano-6-methoxy-7-[3-(4-methylpiperazin-1-yl)propoxy]quinoline | 52% yield | BrC1=CC=C2C(=C1OC1=C(C=NC3=CC(=C(C=C13)OC)OCCCN1CCN(CC1)C)C#N)OCO2 | C26H27BrN4O5
